US07737166B2
2-Cyclopropyl-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-(2-methyl-1,3-thiazol-4-yl)-1,3-benzoxazole-4-carbonitrile (#23)
2-Cyclopropyl-7-fluoro-5-methyl-6-(2-methyl-1,3-thiazol-4-yl)-1,3-benzoxazole-4-carbonitrile (I-80) (3.96 g, 12.65 mmol) was dissolved in dimethyl sulfoxide (40 ml), then triethylamine (4.27 ml, 30.36 mmol) and (3S)-3-(dimethylamino)pyrrolidine (1.93 ml, 15.18 mmol) were added, followed by stirring at 90° C. for 4 hours under nitrogen atmosphere. After cooling to room temperature, water was added, the precipitated solid was collected by filtration, recrystallized and purified with a mixed solvent of diethyl ether/ethyl acetate/methanol to obtain the entitled compound (3.16 g, 61%) as a white solid.

reactant | 2-Cyclopropyl-7-fluoro-5-methyl-6-(2-methyl-1,3-thiazol-4-yl)-1,3-benzoxazole-4-carbonitrile | 12.65 mmol, 3.96 g | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2F)C=2N=C(SC2)C)C)C#N | C16H12FN3OS
reactant | triethylamine | 30.36 mmol, 4.27 ml | C(C)N(CC)CC | C6H15N
reactant | (3S)-3-(dimethylamino)pyrrolidine | 15.18 mmol, 1.93 ml | CN([C@@H]1CNCC1)C | C6H14N2
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 40 ml | CS(=O)C | C2H6OS
product | 2-Cyclopropyl-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-(2-methyl-1,3-thiazol-4-yl)-1,3-benzoxazole-4-carbonitrile | 3.16 g, 61% | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2N2C[C@H](CC2)N(C)C)C=2N=C(SC2)C)C)C#N | C22H25N5OS
